US07521425B2
3-{2-[2-(2-{2-[2-(2-Carboxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethoxy}-propionic acid
A solution of 3-{2-[2-(2-{2-[2-(2-tert-Butoxycarbonyl-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester (6 g, 18.6 mmol) in anisole (20 ml) was cooled in an ice bath and trifluroacetic acid (65 g) was added. After 3 hrs at RT volatiles were removed under reduced pressure and the residue was partitioned between ethyl acetate (50 ml) and 5% sodium bicarbonate solution. The aqueous layer was acidified with 1 N HCl, saturated with NaCl and then extracted with ethyl acetate (3×50 ml). Combined organic layers were washed with brine and dried over sodium sulfate. Removal of volatiles under the reduced pressure provided the product as colorless liquid which solidified upon refrigeration (3.8 g, 82%).

reactant | 3-{2-[2-(2-{2-[2-(2-tert-Butoxycarbonyl-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester | 18.6 mmol, 6 g | C(C)(C)(C)OC(CCOCCOCCOCCOCCOCCOCCC(=O)OC(C)(C)C)=O | C24H46O10
reactant | trifluroacetic acid | 65 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 20 ml | C1(=CC=CC=C1)OC | C7H8O
product | 3-{2-[2-(2-{2-[2-(2-Carboxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethoxy}-propionic acid | C(=O)(O)CCOCCOCCOCCOCCOCCOCCC(=O)O | C16H30O10
